US06268387B1
Step A: 3-(3-Nitro-4-methoxy-benzoylamino)-benzoic acid methyl ester
4-Methoxy-3-nitrobenzoic acid (5.0 g, 25 mmol) was added to thionyl chloride (20 mL) under an inert atmosphere and stirred and heated to reflux. After 2 hours the mixture was stripped to dryness by rotary evaporator, and 2 portions of benzene were successively mixed with then stripped from the residue to leave a solid. This residue was dissolved in tetrahydrofuran (20 mL) and added dropwise to a stirred solution of methyl 3-aminobenzoate (3.83 g, 25 mmol) and pyridine (2 mL) cooled in an icebath. The mixture was allowed to warm to room temperature following the addition, then the solvent was removed under reduced pressure. The residue was suspended in 1N HCl, stirred, filtered off, and washed successively with 1N HCl, 1N NaHCO3 (2×), and water (2×). The resulting solid was boiled briefly in methanol (500 mL) then allowed to cool. Filtration afforded the product (8.0 g); m.p. 233-235° C., in sufficient purity for the next step.

reactant | 4-Methoxy-3-nitrobenzoic acid | 25 mmol, 5.0 g | COC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C8H7NO5
reactant | thionyl chloride | 20 mL | S(=O)(Cl)Cl | Cl2OS
reactant | methyl 3-aminobenzoate | 25 mmol, 3.83 g | NC=1C=C(C(=O)OC)C=CC1 | C8H9NO2
reactant | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 3-(3-Nitro-4-methoxy-benzoylamino)-benzoic acid methyl ester | 8.0 g | COC(C1=CC(=CC=C1)NC(C1=CC(=C(C=C1)OC)[N+](=O)[O-])=O)=O | C16H14N2O6
